US07414063B2
(5-nitro-biphenyl-2-yloxy)-acetic acid methyl ester
An aqueous Na2CO3 solution (2M, 3.79 mL) is added to a stirred solution of (2-bromo-4-nitro-phenoxy)-acetic acid methyl ester (1.06 g, 3.70 mmol), phenylboronic acid (450 mg, 3.72 mmol) and tetrakis(triphenylphosphine)palladium (0) (210 mg, 0.185 mmol) in 1,4-dioxane (10 mL) at ambient temperature under argon. The resultant mixture is heated at −95° C. for 24 hours. At ambient temperature, 5N HCl (3.8 mL) is added to the mixture, followed by the addition of EtOAc (50 mL) and saturated aqueous NaCl solution (15 mL). The organic layer is separated, dried over MgSO4, filtered and concentrated. The crude product is dissolved in MeOH (5 mL)/CH2Cl2 (20 mL) and the solution is treated dropwise with (trimethylsilyl)diazomethane (2M in hexane, 2.8 mL). After stirring for 1 hour, the mixture is concentrated and chromatographed on silica gel (gradient 50-75% CH2Cl2 in hexane) to give 760 mg (2.64 mmol, 71% yield) of the title compound as oil. ESIMS: m/z 288 (M+H)+.

reactant | Na2CO3 | 2M, 3.79 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | (2-bromo-4-nitro-phenoxy)-acetic acid methyl ester | 3.70 mmol, 1.06 g | COC(COC1=C(C=C(C=C1)[N+](=O)[O-])Br)=O | C9H8BrNO5
reactant | phenylboronic acid | 3.72 mmol, 450 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | HCl | 5N, 3.8 mL | Cl | ClH
reactant | NaCl | 15 mL | [Na+].[Cl-]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.185 mmol, 210 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | (5-nitro-biphenyl-2-yloxy)-acetic acid methyl ester | 2.64 mmol, 760 mg, 71% yield | COC(COC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1)=O | C15H13NO5
